./Users/belindabrown/Desktop/CMOS_Inversor/cmos_not_50pF_basic_.asc

M1 N001 N003 N002 N002 PMOS
M2 N001 N003 0 0 NMOS
V1 N003 0 PULSE(5 0 0 10 10 50 100 8)
V2 N002 0 5
C1 N001 0 50p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Shirley!\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1000 0
.backanno
.end
