* /Users/belindabrown/Desktop/Inversor_1.2um/src/Typ_12um_CMOS_not_50pF_sqmtc.asc
M1 N001 N003 N002 N002 PMOS
M2 N001 N003 0 0 NMOS
V1 N003 0 PULSE(3.3 0 0 10 10 50 100 8)
V2 N002 0 3.3
C1 N001 0 50p
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/belindabrown/Library/Application Support/LTspice/lib/cmp/standard.mos
.dc V1 0 3.3 0.001
.MODEL NMOS NMOS LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U
+TPG=1 VTO=0.7860 DELTA=6.9670E-01 LD=1.6470E-07 KP=9.6379E-05
+UO=591.7 THETA=8.1220E-02 RSH=8.5450E+01 GAMMA=0.5863
+NSUB=2.7470E+16 NFS=1.98E+12 VMAX=1.7330E+05 ETA=4.3680E-02
+KAPPA=1.3960E-01 CGDO=4.0241E-10 CGSO=4.0241E-10
+CGBO=3.6144E-10 CJ=3.8541E-04 MJ=1.1854 CJSW=1.3940E-10
+MJSW=0.125195 PB=0.800000
.MODEL PMOS PMOS LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U
+TPG=-1 VTO=-0.9056 DELTA=1.5200E+00 LD=2.2000E-08 KP=2.9352E-05
+UO=180.2 THETA=1.2480E-01 RSH=1.0470E+02 GAMMA=0.4863
+NSUB=1.8900E+16 NFS=3.46E+12 VMAX=3.7320E+05 ETA=1.6410E-01
+KAPPA=9.6940E+00 CGDO=5.3752E-11 CGSO=5.3752E-11
+CGBO=3.3650E-10 CJ=4.8447E-04 MJ=0.5027 CJSW=1.6457E-10
+MJSW=0.217168 PB=0.850000
.backanno
.end
